* source PM-SIM-2
V_Vdd         N01279 0 2Vdc
V_V1         N00798 0 DC 0Vdc AC -0.5Vac 
V_Vss         0 N01097 2Vdc
V_V2         N00786 0 DC 0Vdc AC 0.5Vac 
R_R1         N01032 N01036  330k TC=0,0 
C_C1         VOUT1 0  100f  TC=0,0 
C_C2         0 VOUT2  100f  TC=0,0 
R_R2         N00782 N00786  1 TC=0,0 
R_R3         N00798 N00805  1 TC=0,0 
M_M8         N01032 N01032 N01097 N01097 CMOSN  
+ L=0.6u  
+ W=5u          
+ M=1
M_M9         N01036 N01036 N01279 N01279 CMOSP  
+ L=0.6u  
+ W=5u          
+ M=1
M_M10         N00809 N01036 N01279 N01279 CMOSP  
+ L=0.6u  
+ W=42u          
+ M=1
M_M11         VOUT1 N00782 N00809 N00809 CMOSP  
+ L=0.6u  
+ W=60u          
+ M=1
M_M12         VOUT2 N00805 N00809 N00809 CMOSP  
+ L=0.6u  
+ W=60u          
+ M=1
M_M13         VOUT1 N01032 N01097 N01097 CMOSN  
+ L=0.6u  
+ W=10u          
+ M=1
M_M14         VOUT2 N01032 N01097 N01097 CMOSN  
+ L=0.6u  
+ W=10u          
+ M=1
