* source PM-SIM-4
V_Vdd         N01279 0 2Vdc
V_V2         N00798 0 DC 0Vdc AC 0.5Vac 
V_Vss         0 N01097 2Vdc
V_V1         N00782 0 DC 0Vdc AC -0.5Vac 
C_C2         0 VOUT  5p  TC=0,0 
M_M6         N01036 N01036 N01279 N01279 CMOSP  
+ L=0.5u  
+ W=5u          
+ M=1
M_M5         N00809 N01036 N01279 N01279 CMOSP  
+ L=0.5u  
+ W=5u          
+ M=1
M_M1         N00655 N00782 N00809 N00809 CMOSP  
+ L=0.5u  
+ W=7u          
+ M=1
M_M2         VO1 N00798 N00809 N00809 CMOSP  
+ L=0.5u  
+ W=7u          
+ M=1
M_M3         N00655 N00655 N01097 N01097 CMOSN  
+ L=0.5u  
+ W=3u          
+ M=1
M_M4         VO1 N00655 N01097 N01097 CMOSN  
+ L=0.5u  
+ W=3u          
+ M=1
M_M7         VOUT N01036 N01279 N01279 CMOSP  
+ L=0.5u  
+ W=200u          
+ M=1
M_M8         VOUT VO1 N01097 N01097 CMOSN  
+ L=0.5u  
+ W=90u          
+ M=1
I_I1         N01036 N01097 DC 100u  
