* C:\eeo\eeo-352\spice\l6-spice\1d.asc
V2 neg_5 0 -5
XU1 0 N001 pos_5 neg_5 Vout OP27
V1 pos_5 0 5
V3 Vin 0 SINE(0 100m 50k) AC 100m
R1 N001 Vin 1k
R2 Vout N001 20k
.tran 50u
;.ac dec 100 100 25Meg
.lib ADI.lib
.backanno
.end
