* C:\eeo\eeo-353\reports\l7.asc
Q1 N001 N003 N004 0 2N3904
R1 Vcc N003 56k
R2 N003 0 5.6k
R3 Vcc N001 4.7k
R4 N004 0 470
C1 N004 0 .1µ
C2 N003 N002 .1µ
C3 out N001 .1µ
V1 Vcc 0 9
V2 N002 0 SINE(0 .01 5k)
.model NPN NPN
.model PNP PNP
.lib C:\Users\pmills\OneDrive - Navitas Systems\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 3m
.backanno
.end
