* source PM-SIM-3
V_Vdd         N01279 0 2Vdc
V_V2         N00798 0 DC 0Vdc AC 0.5Vac 
V_Vss         0 N01097 2Vdc
V_V1         N00782 0 DC 0Vdc AC 0.5Vac 
R_R1         N01097 N01036  163k TC=0,0 
C_C2         0 VOUT  100f  TC=0,0 
M_M6         N01036 N01036 N01279 N01279 CMOSP  
+ L=0.5u  
+ W=8u          
+ M=1
M_M5         N00809 N01036 N01279 N01279 CMOSP  
+ L=0.5u  
+ W=40u          
+ M=1
M_M1         N00655 N00782 N00809 N00809 CMOSP  
+ L=0.46u  
+ W=230u          
+ M=1
M_M2         VOUT N00798 N00809 N00809 CMOSP  
+ L=0.46u  
+ W=230u          
+ M=1
M_M3         N00655 N00655 N01097 N01097 CMOSN  
+ L=0.46u  
+ W=230u          
+ M=1
M_M4         VOUT N00655 N01097 N01097 CMOSN  
+ L=0.46u  
+ W=230u          
+ M=1
