* source PM-SIM1
M_M1         N00175 N00133 0 0 CMOSN  
+ L=0.6u  
+ W=2.2u          
+ M=1
V_V1         N00133 0 0Vdc
V_V2         N00175 0 0Vdc
V_V3         N00822 N00815 0Vdc
V_V4         N00822 0 0Vdc
M_M2         0 N00815 N00822 N00822 CMOSP  
+ L=0.6u  
+ W=2.2u          
+ M=1
