* C:\eeo\eeo-352\spice\l8-spice\fig2.asc
V2 N001 0 5
V1 i 0 SINE(0 5m 50k) AC 1
C1 g i 100n
R1 o g 200k
C2 N002 0 30p
R3 N001 o 2k
Q1 o g 0 0 2N3904
.model NPN NPN
.model PNP PNP
.lib C:\Users\pmills\OneDrive - Navitas Systems\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.op
;.tran 100u
.ac dec 100 100 1500Meg
.backanno
.end
